US04096267
Step C: [1-Oxo-2-methyl-2-(4-nitrophenyl)-6,7-dichloro-5-indanyloxy]acetic acid
A stirred mixture of 2-methyl-2-(4-nitrophenyl-5-hydroxy-6,7-dichloro-1-indanone (4.4 g., 0.0126 mole), potassium carbonate (3.49 g., 0.0252 mole) and ethyl bromoacetate (4.21 g., 0.0252 mole) in dimethylformamide (150 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (150 ml.)-10N sodium hydroxide solution (7.5 ml., 0.075 mole) and heated at 100° C. for 1.5 hours. The reaction mixture is added slowly to water (1 l.)-12N hydrochloric acid (15 ml.) to precipitate 2.44 g. of [1-oxo-2-methyl-2-(4-nitrophenyl)-6,7-dichloro-5-indanyloxy]acetic acid which melts at 202°-205° C. after crystallization from nitromethane.

reactant | 4-nitrophenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0126 mole, 4.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C15H9Cl2NO4
reactant | potassium carbonate | 0.0252 mole, 3.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0252 mole, 4.21 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.075 mole, 7.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | -12N, 1 l | O | H2O
solvent | water | -10N, 150 ml | O | H2O
product | [1-Oxo-2-methyl-2-(4-nitrophenyl)-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C18H13Cl2NO6
